US08217035B2
To a solution of 4-chloro-6-methoxypyrimidine-2-ylamine (4.4 g, 27.7 mmol) in EtOAc (200 mL) and ethanol (150 mL), was added diisopropylethylamine (9.6 mL, 55.3 mmol) and 10% palladium on carbon (2.9 g, 2.77 mmol). The heterogeneous solution was stirred under a balloon atmosphere of H2 for 14 hours, at which time the solution was filtered through a Celite pad and the volatiles were removed in vacuo. The residue was dissolved in EtOAc (200 mL), washed with Na2CO3(sat.) (100 mL) and with NaCl(sat.) (100 mL), dried over Na2SO4, filtered and concentrated yielding 3.1 g (90%) of 4-methoxypyrimidine-2-ylamine. LCMS (m/z): 126 (MH+). 1H NMR (CDCl3): δ 8.00 (d, J=5.7 Hz, 1H), 6.08 (d, J=5.7 Hz, 1H), 4.98 (bs, 2H), 3.84 (s, 3H).

reactant | 4-chloro-6-methoxypyrimidine-2-ylamine | 27.7 mmol, 4.4 g | ClC1=NC(=NC(=C1)OC)N | C5H6ClN3O
reactant | diisopropylethylamine | 55.3 mmol, 9.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.77 mmol, 2.9 g | [Pd] | Pd
product | 4-methoxypyrimidine-2-ylamine | 3.1 g, 90% | COC1=NC(=NC=C1)N | C5H7N3O
